*
*
* Original Scrip by Ethan Sifferman
* Edited by Aadarsha Kandel
*
*


* RC low-pass filter: PWM to DC
* R=10k, C=170pF
* PWM: f_pwm = 6.25MHz, 3.3V, 50% duty

* pwm duty cycle (lowv highv rise_t fall_t t_on T_period)
Vpwm in 0 PULSE(0 3.3 0 0.1n 0.1n 80n 160n)


R1 in out 10k
C1 out 0 170p

* in
* |
* R
* |
* out -- V_ref to comparator
* |
* C
* |
* gnd

.control
tran 0.1n 8.5u
wrdata tran.data v(in) v(out)
.endc

* Measure at 5 tau = 8.5 us (last full PWM cycle before end)
.measure tran vout_max MAX v(out) FROM=8.34u TO=8.5u
.measure tran vout_min MIN v(out) FROM=8.34u TO=8.5u
.measure tran v_ripple PP  v(out) FROM=8.34u TO=8.5u
.measure tran v_avg    AVG v(out) FROM=8.34u TO=8.5u

.end
